US07482341B2
(6-Diethylcarbamoylmethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (0.2 g) in CH2Cl2 (10 mL) was treated at RT with trifluoro-acetic acid (0.5 mL) and the solution was stirred for 1.5 h until the reaction was complete according to the analysis. The mixture was allowed to warm to 10° C. and partitioned between aqueous diluted KHCO3 and AcOEt, the layers were separated, the organic layer dried over Na2SO4, filtered, evaporated to give 2-(6-amino-pyridin-2-yl)-N,N-diethyl-acetamide (148 mg) as a light yellow solid that was directly used in the next step.

reactant | (6-Diethylcarbamoylmethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.2 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC(N(CC)CC)=O)=O | C16H25N3O3
reactant | trifluoro-acetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-amino-pyridin-2-yl)-N,N-diethyl-acetamide | 148 mg | NC1=CC=CC(=N1)CC(=O)N(CC)CC | C11H17N3O
